US08802728B2
Add dropwise bicyclo[4.1.0]heptan-2-one (43.3 g, 0.393 mol) in dry THF (50 mL) to a solution of LDA (237 mL, 0.472 mol) in THF (500 mL). Stir the reaction mixture for 30 min and then add dropwise TMSCl (64.2 g, 0.59 mol) to the reaction mixture. Stir the resultant solution for additional 1 hour. Pour the mixture into ice water (92 mL) and extract the aqueous mixture with EtOAc (100 mL×3). The combined organic layers are washed with brine, dried over MgSO4, filtered and concentrated in vacuo to afford crude (bicyclo[4.1.0]hept-2-en-2-yloxy)-trimethyl-silane (68.0 g, 95.0%) as yellowish oil, MS (m/z): 181 (M−1).

reactant | bicyclo[4.1.0]heptan-2-one | 0.393 mol, 43.3 g | C12C(CCCC2C1)=O | C7H10O
reactant | LDA | 0.472 mol, 237 mL | [Li+].CC(C)[N-]C(C)C
reactant | TMSCl | 0.59 mol, 64.2 g | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | 50 mL | C1CCOC1 | C4H8O
solvent | THF | 500 mL | C1CCOC1 | C4H8O
product | (bicyclo[4.1.0]hept-2-en-2-yloxy)-trimethyl-silane | 68.0 g, 95.0% | C12C(=CCCC2C1)O[Si](C)(C)C | C10H18OSi
